US07612078B2
6-Chloro-N-(1-((pyridin-3-yl)methyl)piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine
The title compound was prepared (338 mg, 94%) from 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine (341 mg, 1.0 mmol) and 3-pyridinecarboxaldehyde (107 mg, 1.0 mmol) by following the general procedure described for Preparation 11. 1H NMR (400 MHz, CDCl3): 8.57 (d, 1H), 8.52 (dd, 1H), 8.43 (s, 1H), 7.68-7.65 (m, 1H), 7.29 (d, 1H), 7.02 (s, 1H), 5.14 (d, 1H), 4.21-4.17 (m, 1H), 3.54 (s, 2H), 2.88 (d, 2H), 2.43 (t, 2H), 2.10-2.07 (m, 2H), 1.62-1.52 (m, 2H); MS (ESI) m/z: Calculated: 359.88; Observed: 360.2 (M++1).

reactant | 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine | 1.0 mmol, 341 mg | ClC1=CC2=C(N=CN=C2NC2CCNCC2)S1 | C11H13ClN4S
reactant | 3-pyridinecarboxaldehyde | 1.0 mmol, 107 mg | N1=CC(=CC=C1)C=O | C6H5NO
product | 6-Chloro-N-(1-((pyridin-3-yl)methyl)piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine | ClC1=CC2=C(N=CN=C2NC2CCN(CC2)CC=2C=NC=CC2)S1 | C17H18ClN5S
